### PR TITLE
[Merged by Bors] - feat: the complex of homomorphisms between two cochain complexes

### PR DESCRIPTION
**Pull request by joelriou**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Homology/HomotopyCategory/HomComplex.lean [hunk 1]
```diff
@@ -415,8 +416,135 @@ lemma δ_shape (hnm : ¬ n + 1 = m) (z : Cochain F G n) : δ n m z = 0 := by
...
+  · subst h
+    ext
+    simp
+  · rw [δ_shape]
+    intro
+    exact h (by linarith)
+
+
+@[simp]
+lemma δ_ofHomomotopy {φ₁ φ₂ : F ⟶ G} (h : Homotopy φ₁ φ₂) :
```
Comment (jcommelin) [inline Mathlib/Algebra/Homology/HomotopyCategory/HomComplex.lean:515]:
```suggestion
lemma δ_ofHomotopy {φ₁ φ₂ : F ⟶ G} (h : Homotopy φ₁ φ₂) :
```

**Review by jcommelin — APPROVED** [review]
bors d+

**Comment by joelriou** [comment]
Thanks for the review!

bors merge
